US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (300 mg, 0.63 mmol), 2-ethynylpyridine (90 μL, 0.82 mmol), 7.3 mg of tetrakis(triphenylphosphine)palladium(0) and 3 mg of copper(I) iodide in 2 mL of triethylamine and 7 mL of benzene is heated at reflux overnight. The mixture is cooled to room temperature and 5 mL of methanol are added. The solvents are removed in vacuo and the residue is treated with 10 mL of ethyl acetate. The insoluble material is removed by filtration, washing with ethyl acetate. The filtrate is washed with 10% aqueous hydrochloric acid, water, and saturated aqueous sodium chloride. The combined aqueous layers are extracted with dichloromethane. The organic layer is washed with saturated aqueous sodium chloride, dried over magnesium sulfate, filtered and concentrated in vacuo. The aqueous layer is adjusted to pH 6 and extracted with chloroform. The organic layer is washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The residues are combined and purified by flash column chromatography eluting with 5% methanol in dichloromethane. The fractions containing product are combined and concentrated. The resultant solid is recrystallized from ethyl acetate and hexane to provide 92 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(pyridin-2-ylethynyl)thieno[3,2-b]pyridine-6-carbonitrile as light brown crystals, mp 237-239° C.; 1H NMR (DMSO-d6) δ 3.86 (s, 3H), 7.35-7.52 (m, 2H), 7.73 (d, J=8 Hz, 1H), 7.80 (s, 1H), 7.83-7.92 (m, 2H), 8.60-8.72 (m, 2H), 9.89 (s, 1H); MS 449.1, 450.9 (M−H)−.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 0.63 mmol, 300 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | 2-ethynylpyridine | 0.82 mmol, 90 μL | C(#C)C1=NC=CC=C1 | C7H5N
reactant | methanol | 5 mL | CO | CH4O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 7 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium(0) | 7.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 3 mg | [Cu]I
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(pyridin-2-ylethynyl)thieno[3,2-b]pyridine-6-carbonitrile | 92 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C#CC2=NC=CC=C2 | C22H12Cl2N4OS
